US06727264B1
2-METHYL-N-{3-[1-(3-{[(4-PHENOXYANILINO)CARBONYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure P and Scheme AM using 1-isocyanato-4-phenoxybenzene and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 515.5 (M+H)+.

reactant | 1-isocyanato-4-phenoxybenzene | N(=C=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C13H9NO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | 2-METHYL-N-{3-[1-(3-{[(4-PHENOXYANILINO)CARBONYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCNC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)C | C31H38N4O3
